US07618964B2
a) 2-(3,4-Difluoro-phenyl)-6-nitro-3H-imidazo[4,5-b]pyridine
1.00 g 2,3-diamino-5-nitro-pyridine and 0.95 g 3,4-difluorobenzaldehyde were stirred in 60 ml nitrobenzene at 160 C for 26 hrs. The solvent was removed under vacuum and the residue dissolved in 40 ml pyridine at 60 C. The solution was cooled in an ice bath. Precipitated product was isolated by filtration and dried to yield 0.5 g of the title product.

reactant | 2,3-diamino-5-nitro-pyridine | 1.00 g | NC1=NC=C(C=C1N)[N+](=O)[O-] | C5H6N4O2
reactant | 3,4-difluorobenzaldehyde | 0.95 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
solvent | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-(3,4-Difluoro-phenyl)-6-nitro-3H-imidazo[4,5-b]pyridine | 0.5 g | FC=1C=C(C=CC1F)C1=NC=2C(=NC=C(C2)[N+](=O)[O-])N1 | C12H6F2N4O2
